US07727988B2
5-(2-Fluoro-5-methylpyridin-3-yl)-2,4-dimethoxy-pyrimidine (Prep98)
2,4-Dimethoxy-pyrimidine-5-boronic acid (842 mg, 4.60 mmol) was dissolved in degassed n-PrOH (55 ml) and then 2-fluoro-3-bromo-5-methylpyridine (800 mg, 4.21 mmol), Na2CO3 (1.46 g, 13.77 mmol), PPh3 (348 mg, 1.33 mmol) and Pd(OAc)2 (101 mg, 0.45 mmol) were added. The suspension was stirred at reflux for 2 hours. After cooling, the solvent was evaporated under vacuum and the crude was partitioned between water and ethyl acetate. The organic phase was dried (Na2SO4) and evaporated. The residue was triturated with Et2O to give 350 mg of the title compound as a gray powder (31% yield).

reactant | 2,4-Dimethoxy-pyrimidine-5-boronic acid | 4.60 mmol, 842 mg | COC1=NC=C(C(=N1)OC)B(O)O | C6H9BN2O4
reactant | 2-fluoro-3-bromo-5-methylpyridine | 4.21 mmol, 800 mg | FC1=NC=C(C=C1Br)C | C6H5BrFN
reactant | Na2CO3 | 13.77 mmol, 1.46 g | C(=O)([O-])[O-].[Na+].[Na+]
reactant | PPh3 | 1.33 mmol, 348 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3 | C18H15P
solvent | n-PrOH | 55 ml | C(CC)O | C3H8O
catalyst | Pd(OAc)2 | 0.45 mmol, 101 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | 5-(2-Fluoro-5-methylpyridin-3-yl)-2,4-dimethoxy-pyrimidine | 350 mg, 31% yield | FC1=NC=C(C=C1C=1C(=NC(=NC1)OC)OC)C | C12H12FN3O2
